US07078527B2
Preparation of 2-[(3,4,4-trifluoro-3-butenyl)sulphanyl]-1,3-thiazole (process (c) using chloroacetaldehyde)
15.1 g (64.8 mmol; purity 86.3%) of 3,4,4-trifluoro-3-butenyl dithiocarbamate in 100 ml of dioxane are admixed with 0.2 ml of conc. hydrochloric acid and 12.4 g (71.2 mmol) of 45% aqueous chloroacetaldehyde solution. The mixture is boiled for 4 h under argon, and another 1 ml of chloroacetaldehyde solution is added after 2 h. The mixture is then concentrated by evaporation under reduced pressure, the residue taken up in dichloromethane and washed with water, and the organic phase concentrated by evaporation under reduced pressure after drying over MgSO4. 16 g (94.4% of theory; purity by GC/MS: 86.1 area %) of an oil are obtained, which may be distilled at 0.4 T/86° C.

reactant | 3,4,4-trifluoro-3-butenyl dithiocarbamate | 64.8 mmol, 15.1 g | C(N)(SCCC(=C(F)F)F)=S | C5H6F3NS2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | chloroacetaldehyde | 71.2 mmol, 12.4 g | ClCC=O | C2H3ClO
reactant | chloroacetaldehyde | 1 ml | ClCC=O | C2H3ClO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[(3,4,4-trifluoro-3-butenyl)sulphanyl]-1,3-thiazole | FC(CCSC=1SC=CN1)=C(F)F | C7H6F3NS2
